US06251926B1
Hydrazine monohydrate (0.661 ml) was added to a solution of N-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide (3.00 g) in ethanol (25 ml)-tetrahydrofuran (25 ml) and heated under reflux for 3 hours. The reaction mixture was cooled to room temperature, an aqueous solution of potassium carbonate was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The remaining crystals were recrystallized from ethyl acetate-hexane to obtain 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (2.04 g, yield 97%) as pale-yellow crystals. m.p. 81-82° C.

reactant | Hydrazine monohydrate | 0.661 ml | O.NN
reactant | N-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]phthalimide | 3.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CON2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C26H20N2O5
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 2.04 g, yield 97% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CON)C=CC1 | C18H18N2O3
